US04308277
25 ml of methanol and 1.85 g of ethyl iodide are added to 2.5 g of DL-trans-4,5-diphenyl-imidazolidine-2-thione and the mixture is refluxed for 15 hours. A further 0.4 g of ethyl iodide is then added and the mixture is refluxed for a further 5 hours. It is then evaporated to dryness. DL-trans-2-Ethylthio-4,5-diphenyl-imidazoline hydroiodide is obtained. In order to convert it to the base, this hydroiodide is suspended in 100 ml of ethyl acetate and 100 ml of water, the suspension is rendered alkaline with concentrated aqueous ammonia solution and the organic phase is separated off, dried over sodium sulfate and evaporated. DL-trans-2-Ethylthio-4,5-diphenyl-imidazoline with a melting point of 130°-132° is obtained.

reactant | ethyl iodide | 1.85 g | C(C)I | C2H5I
reactant | trans-4,5-diphenyl-imidazolidine-2-thione | C1(=CC=CC=C1)[C@@H]1NC(N[C@H]1C1=CC=CC=C1)=S | C15H14N2S
reactant | ethyl iodide | 0.4 g | C(C)I | C2H5I
solvent | methanol | 25 ml | CO | CH4O
product | trans-2-Ethylthio-4,5-diphenyl-imidazoline hydroiodide | I.C(C)SC=1N[C@H]([C@@H](N1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C17H18N2S.HI/c1-2-20-17-18-15(13-9-5-3-6-10-13)16(19-17)14-11-7-4-8-12-14;/h3-12,15-16H,2H2,1H3,(H,18,19);1H/t15-,16-;/m0./s1
